US04055590
A mixture of 20.6 g of α-hydroxy-isobutyramide and 204 g of n-hexyl alcohol was heated in the presence of 0.45 g of PbO for 6 hours at 200° C. in an autoclave. On working up by distillation, 19.5 g (= 51.8 percent of theory) of α-hydroxy-isobutyric acid-n-hexyl-ester were obtained. The amide conversion is 75 percent.

reactant | α-hydroxy-isobutyramide | 20.6 g | OC(C(=O)N)(C)C | C4H9NO2
reactant | n-hexyl alcohol | 204 g | C(CCCCC)O | C6H14O
product | α-hydroxy-isobutyric acid-n-hexyl-ester | 19.5 g, 51.8 percent | C(CCCCC)OC(C(C)(C)O)=O | C10H20O3
